US05061725
Preparation of 1-[2-(pyrrolidin-2-one-1-yl) acetyl]-4-(morpholinocarbonylmethyl) piperazine (ST 673)
CDI (2.43 g, 0.015 moles) was added to 1.72 g (0.012 moles) of (pyrrolidin-2-one-1-yl) acetic acid in 40 ml of CH2Cl2 under stirring and after one hour morpholinocarbonylmethyl piperazine 2.56 g, 0.012 moles) was added. The solution was kept under stirring for 20 hours at room temperature, the solvent was then evaporated and the residue chromatographed on silica gel using CHCl3 --MeOH as eluant, ratio 95:5.

reactant | CDI | 0.015 moles, 2.43 g | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | (pyrrolidin-2-one-1-yl) acetic acid | 0.012 moles, 1.72 g | N1(C(CCC1)=O)CC(=O)O | C6H9NO3
reactant | morpholinocarbonylmethyl piperazine | 0.012 moles, 2.56 g | O1CCN(CC1)C(=O)CN1CCNCC1 | C10H19N3O2
solvent | CH2Cl2 | 40 ml | C(Cl)Cl | CH2Cl2
product | 1-[2-(pyrrolidin-2-one-1-yl) acetyl]-4-(morpholinocarbonylmethyl) piperazine | N1(C(CCC1)=O)CC(=O)N1CCN(CC1)CC(=O)N1CCOCC1 | C16H26N4O4
